US03939166
4-Chloro-7-nitro-5-cyano-2-trifluoromethylbenzimidazole is reacted with piperidine to obtain 4-piperidino-7-nitro-5-cyano-2-trifluoromethylbenzimidazole, m.w., 339.3. This compound is reacted with calcium oxide to obtain the corresponding calcium salt, m.w., 716.6.

reactant | 4-Chloro-7-nitro-5-cyano-2-trifluoromethylbenzimidazole | ClC1=C(C=C(C=2N=C(NC21)C(F)(F)F)[N+](=O)[O-])C#N | C9H2ClF3N4O2
reactant | piperidine | N1CCCCC1 | C5H11N
product | 4-piperidino-7-nitro-5-cyano-2-trifluoromethylbenzimidazole | N1(CCCCC1)C1=C(C=C(C=2N=C(NC21)C(F)(F)F)[N+](=O)[O-])C#N | C14H12F3N5O2
